* ADA4505 SPICE Macro-model Typical Values
* Description: Amplifier
* Generic Desc: 1.8/5V, CMOS, OP, ZCO, RRIO, 2X
* Developed by: GEC/ADSJ
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (07/2009)
* Copyright 2009, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: VSY=5V, T=25°C
*
* END Notes
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT ADA4505         1   2   99  50  45
*
* INPUT STAGE
*
M1   4  7  8  8 PIX L=1E-6 W=7.80E-02
M2   6  2  8  8 PIX L=1E-6 W=7.80E-02
Cinp 1 50 4.7pF
Cinn 2 50 4.7pF
Cdiff 1 2 2.5pF
RD1  4 50 8.00E+02
RD2  6 50 8.00E+02
C1   4  6 1.26E-09
I1  99  8 5.00E-04
V1   9  8 0.015E-00
D1   9 99 DX
EOS  7  1 POLY(4) (73,98) (22,98) (81,98) (83,98) 5.00E-04 1 1 1 1
IOS  1  2 2.50E-14
*
* CMRR=107dB, POLE AT 350 Hz
*
E1  72 98 POLY(2) (1,98) (2,98) 0 0.06381194E-00 0.06381194E-00
R10 72 73 454.728E+00
R20 73 98 3.18E-02
C10 72 73 1.00E-06
*
* PSRR=105dB, POLE AT 0.5 Hz
*
EPSY 21 98 POLY(1) (99,50) -3.374048E-00 0.6748096E-00
RPS1 21 22 3.18E+04
RPS2 22 98 2.65E+00
CPS1 21 22 1.00E-06
*
* VOLTAGE NOISE REFERENCE OF 53nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 5.30E+01
RN2 81 98 1
*
* FLICKER NOISE CORNER = 25 Hz
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.6551
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) -4.9999E-04 0.1E-10
EVP  97 98 (99,50) 0.5
EVN  51 98 (50,99) 0.5
*
* GAIN STAGE
*
G1 98 30 (4,6) 7.809E-05
R1 30 98 1.00E+06
CF 30 31 3.124E-09
RZ 45 31 1.097E+03
V3 32 30 5.43E-01
V4 30 33 5.42E-01
D3 32 97 DX
D4 51 33 DX
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=1E-6 W=1.10E-03
M6  45 47 50 50 NOX L=1E-6 W=1.38E-03
EG1 99 46 POLY(1) (98,30) 3.649E-01 1
EG2 47 50 POLY(1) (30,98) 3.610E-01 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=1.00E-05,VTO=-0.328,LAMBDA=0.01,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=1.00E-05,VTO=+0.328,LAMBDA=0.01,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=1.00E-05,VTO=-5.00E-01,LAMBDA=0.01)
.MODEL DX D(IS=1E-14,RS=0.1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=4.78E-11)
*
*
.ENDS ADA4505
*
*$




